US09283224B2
Methyl 5-chloro-2-ethylbenzoate
Methyl 2-bromo-5-chlorobenzoate (1.0 g, 4 mmol), lithium chloride (490 mg, 11.58 mmol), tetraethyltin (0.81 mL, 4.1 mmol) and bis(triphenylphosphine)-palladium(II)chloride (100 mg, 0.13 mmol) were combined in DMF (20 mL) and heated at 100° C. for 5 h. Solvent was removed at reduced pressure and the residue was diluted with water and EtOAc. The organic layer was separated, washed with water, dried over sodium sulfate and concentrated. Column chromatography on silica gel (0 to 10% EtOAc/hexane) provided the title compound (435 mg, 55%).

reactant | Methyl 2-bromo-5-chlorobenzoate | 4 mmol, 1.0 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | lithium chloride | 11.58 mmol, 490 mg | [Cl-].[Li+]
reactant | tetraethyltin | 4.1 mmol, 0.81 mL | C(C)[Sn](CC)(CC)CC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 0.13 mmol, 100 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Methyl 5-chloro-2-ethylbenzoate | 435 mg, 55% | ClC=1C=CC(=C(C(=O)OC)C1)CC | C10H11ClO2
